US09403798B2
tert-Butyl [rac-(2S,4R)-2-(4-fluorophenyl)tetrahydro-2H-pyran-4-yl]carbamate
To a tetrahydrofuran solution (2.0 mL) of N-[rac-(2S,4R)-2-(4-fluorophenyl)tetrahydro-2H-pyran-4-yl]acetamide (382 mg, 1.61 mmol) synthesized in Reference Synthesis Example 235, di-tert-butyl dicarbonate (703 mg, 3.22 mmol) and 4-dimethylaminopyridine (7.80 mg, 80.0 μmol) were added and the resultant mixture was stirred under reflux by heating for 2 hours. To the residue obtained by concentrating the reaction solution under reduced pressure, methanol (5.0 mL) and hydrazine monohydrate (403 mg, 8.05 mmol) were added and the resultant mixture was stirred at room temperature for 2 hours. After completion of the reaction, the reaction solution was concentrated under reduced pressure and saturated ammonium chloride aqueous solution was added to the resultant residue, followed by extraction from the resultant mixture with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=6/1) to obtain the title compound (408 mg, yield 86%).

reactant | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
reactant | N-[rac-(2S,4R)-2-(4-fluorophenyl)tetrahydro-2H-pyran-4-yl]acetamide | 1.61 mmol, 382 mg | FC1=CC=C(C=C1)C1OCCC(C1)NC(C)=O | C13H16FNO2
reactant | di-tert-butyl dicarbonate | 3.22 mmol, 703 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrazine monohydrate | 8.05 mmol, 403 mg | O.NN
catalyst | 4-dimethylaminopyridine | 80.0 μmol, 7.80 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methanol | 5.0 mL | CO | CH4O
product | tert-Butyl [rac-(2S,4R)-2-(4-fluorophenyl)tetrahydro-2H-pyran-4-yl]carbamate | 408 mg, yield 86% | FC1=CC=C(C=C1)C1OCCC(C1)NC(OC(C)(C)C)=O | C16H22FNO3
